US20010016659A1
To a slurry of phenol (1.9 g, 20 mmol), K2CO3 (6.0 g, 40 mmol), and Cul (4 g, 20 mmol) in DMF (25 mL) was added N-methyl-3-bromobenzenesulfonamide (2.5 g, 10 mmol), and the resulting mixture was stirred at the reflux temp. overnight, cooled to room temp., and separated between EtOAc (50 mL) and a 1 N HCl solution (50 mL). The aqueous layer was back-extracted with EtOAc (2×50 mL). The combined organic phases were sequentially washed with water (2×50 mL) and a saturated NaCl solution (50 mL), dried (MgSO4), and concentrated under reduced pressure. The residual oil was purified by column chromatography (30% EtOAc/70% hexane) to give 4-(3-(N-methylsulfamoyl) phenyloxy)benzene (0.30 g).

reactant | phenol | 20 mmol, 1.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 40 mmol, 6.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-3-bromobenzenesulfonamide | 10 mmol, 2.5 g | CNS(=O)(=O)C1=CC(=CC=C1)Br | C7H8BrNO2S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(3-(N-methylsulfamoyl) phenyloxy)benzene | 0.30 g | CNS(=O)(=O)C=1C=C(C=CC1)OC1=CC=CC=C1 | C13H13NO3S
